***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: Analog e-Lab Design Center, Texas Instruments Inc.
* Part: CSD87330Q3D
* Date: 06/15/2011
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS284 - May 2010
*
*****************************************************************************
*
* Updates:
*
* Final 1.00 - 06/15/2011
* Release to Web
*
*
*****************************************************************************
*$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD87330Q3D -  PSpice Model                                       *
*                                                                    *
* Model Status:  Model extracted from measurements of typical device *
*                                                                    *
* Assembly:      Q3 Power Block                                      *
*                                                                    *
**********************************************************************
* Characteristics:
*   Technology:  TI NexFETLV 30/10 n-channel Source Down 
*
* nFET SUBCKT Definition:  1=D  2=G  3=S
* SUBCKT Definition:  1=2=Vin 3=TG 4=TGR 5=BG 6=7=8=VSW 9=PGND
**********************************************************************
.SUBCKT csd87330q3d  1 2 3 4 5 6 7 8 9
*
XnfetHS  18  17  19  n37307
XnfetLS  19  16  15  n37306
RGls      5  10      10e-3
RGhs      3  11      14e-3
RDhs1     1  12      1.1e-3
RDhs2     2  12      1.1e-3
RGlr      4  13      10e-3
Rpsn      8  14      0.95e-3
Rpsn2     7  14      0.95e-3
Rpsn3     6  14      0.95e-3
RSls      9  15      0.001e-3
LGls     10  16      0.61e-9
LGhs     11  17      0.99e-9
LDhs     12  18      0.45e-9
RLDhs    12  18      1
LGlr     13  19      0.61e-9
Lpsn     14  19      0.35e-9
.ENDS csd87330q3d
**********************************************************************
**********************************************************************
*                                                                    *
*   n37306   -  PSpice Model                                        *
*                                                                    *
*   n37306 is the LS silicon die model for use with 87330q3d         *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT n37306  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidthP  1.64239
.PARAM  pWidth   {pWidthP*1e6}
.PARAM  pLen     0.56u
.PARAM  perimP   {2.1*pWidthP}
.PARAM  perim    {perimP*1e6}
.PARAM  ptrc1    2.75e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    5.0e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidthP} L={pLen} PS={perimP} PD={perimP}
DBD   3  1	 DBD
CBD0  3  1   148e-12
RBD0  3  1   9e9
CGD0  2 13	 2E-12
RGD  13  1   2e6
CGS0  2  3	 4e-12
M2   12 11 12 20  PMOSd W={pWidthP} L=0.095u PS={perimP} PD={perimP}
*RDx  20 12   1e14
*CDx  20 12   2p
CGS   2 99 50e-11
RGS   99 3 7.5
DDx  20  10  DDx
DDG  14  11	 DD
DGD  14 10	 DD
RGG   2 11	 7.40E-01
RSB  12  9	 rtemp 0.25e-3
RSS   9  3 	 rtemp 0.250e-3
RDD   1 10 	 rtemp 2.18E-03
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.095e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 2.040e17      NSUB   = 1.5e16
+ AGS    = 0.0           PVAG   = 0.0           U0     = 620
+ A0     = 1.00          A1     = 0.0           A2     = 1.0
+ UA     = 3.4e-9        UB     = 1.1e-18       VBM    = -10
+ UA1    = 1.0e-9        UB1    = -1.5e-18      UTE    = -1.50
+ KT1    = -0.65         KT2    = 0.022         KT1L   = 1.0e-15
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.020         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.05          PDIBLC2= 0.005         NLX    = 1.75e-7
+ PSCBE1 = 7.0e8         PSCBE2 = 2e-7          PCLM   = 0.1
+ VOFF   = -0.150        NFACTOR= 1.40          JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.045
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 31.50e-12       CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.90         IS     = 7e-14
+ TOX    = 1.75e-8       NSUB   = 5.0e17	      
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=1.28e-9 VJ=1.00 M=0.4125 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=2.4 BV=31 IS=2.7e-12 N=0.99 RS=3.50e-3 TRS1=3.5e-3)
.MODEL DD  D (CJO=3.0e-10 VJ=1.00 M=0.9 IS=1e-13 TNOM=27)
.MODEL DDx D (CJO=0.085e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.model rtemp res (tc1={ptrc1} tc2={ptrc2})
.ENDS n37306
*$
**********************************************************************
**********************************************************************
*                                                                    *
*   n37307   -  PSpice Model                                        *
*                                                                    *
*   n37307 is the HS die silicon model for use with 87330q3d         *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT n37307  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidthP  0.84674
.PARAM  pWidth   {pWidthP*1e6}
.PARAM  pLen     0.56u
.PARAM  perimP   {2.1*pWidthP}
.PARAM  perim    {perimP*1e6}
.PARAM  ptrc1    2.5e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    6.0e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidthP} L={pLen}  PS={perimP} PD={perimP}
DBD   3  1	 DBD
CBD0  3  1   94e-12
RBD0  3  1   9e9
CGD0  2 13	 5E-12
RGD  13  1   2e6
CGS0  2  3	 6e-12
M2   12 11 12 20  PMOSd W={pWidthP} L=0.075u PS={perimP} PD={perimP}
*RDx  20 12   1e14
*CDx  20 12   2p
CGS   2 99 5e-12
RGS   99 3 10
DDx  20  10  DDx
DDG  14  11	 DD
DGD  14 10	 DD
RGG   2 11	 1.49E+00
RSB  12  9	 rtemp 3.44E-04
RSS   9  3 	 rtemp 3.44E-04
RDD   1 10 	 rtemp 4.47E-03
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.075e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 2.281e17      NSUB   = 2.5e16
+ AGS    = 0.0           PVAG   = 0.00          U0     = 620
+ A0     = 1.15          A1     = 0.0           A2     = 1.2
+ UA     = 2.5e-9       UB     = 1.3e-18       VBM    = -10
+ UA1    = 1.20e-9       UB1    = -2.0e-18      UTE    = -1.50
+ KT1    = -0.75         KT2    = 0.022         KT1L   = 1.0e-13
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.020         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.001          PDIBLC2= 0.006         NLX    = 1.75e-7
+ PSCBE1 = 6.5e8         PSCBE2 = 1e-7          PCLM   = 1e-3
+ VOFF   = -0.000        NFACTOR= 1.75          JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.045
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 291e-12       CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.65         IS     = 4e-14
+ TOX    = 1.75e-8       NSUB   = 5e17          GAMMA  = 0.01
+ CJ     = 1e-18         CJSW   = 1e-18 
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=6.05e-10 VJ=0.65 M=0.35 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=3.4 BV=31 IS=7.5e-13 N=1.02 RS=3.5e-3 TRS1=2.5e-3)
.MODEL DD  D (CJO=1.60e-10 VJ=1.0 M=0.90 IS=1e-13 TNOM=27)
.MODEL DDx D (CJO=0.02e-09 VJ=1.0 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.model rtemp res (tc1={ptrc1} tc2={ptrc2})
.ENDS n37307
*